US08283353B2
4′-{[4-(2-methoxy-3,3-dimethylbutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[4-(2-hydroxy-3,3-dimethylbutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.3 g), sodium hydride (0.03 g) and N,N-dimethylformamide (5 mL) was stirred at 0° C. for 10 min, methyl iodide (0.046 mL) was added, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with 5% aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.22 g, 72%).

reactant | 4′-{[4-(2-hydroxy-3,3-dimethylbutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.3 g | OC(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)C(C)(C)C | C29H33N5O2
reactant | sodium hydride | 0.03 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.046 mL | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(2-methoxy-3,3-dimethylbutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.22 g, 72% | COC(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)C(C)(C)C | C30H35N5O2
